US05652257
Step A: Preparation of (S)-N-(4-nitrobenzyl)pyroglutamic acid methyl ester
(S)-Pyroglutamic acid methyl ester (0.200 g, 1.40 mmol) was dissolved in dry THF (5 ml) and NaH (0.061 g, 1.5 mmol) was added. After gas evolution ceased, 4-nitrobenzyl bromide (0.332 g, 1.54 mmol) was added and the mixture stirred for 1 h. The reaction was quenched with saturated NaHCO3 solution (40 mL) and extracted with EtOAc (2×50 ml). The organic layers were washed with water, brine, dried (MgSO4), filtered, and concentrated to give the title compound as a solid. 1H NMR (CDCl3) δ 8.19 (d, 2H, J=8.6 Hz), 7.40 (d, 2H, J=8.6 Hz), 5.29 (d, 1H, J=15 Hz), 4.19 (d, 1H, J=15 Hz), 4.02 (dd, 1H, J=3,9 Hz), 3.79 (s, 3H), 2.54-2.67 (m, 1H), 2.42-2.51 (m, 1H), 2.27-2.39 (m, 1H), 2.11-2.21 (m, 1H).

reactant | (S)-Pyroglutamic acid methyl ester | 1.40 mmol, 0.200 g | COC([C@H]1NC(CC1)=O)=O | C6H9NO3
reactant | NaH | 1.5 mmol, 0.061 g | [H-].[Na+]
reactant | 4-nitrobenzyl bromide | 1.54 mmol, 0.332 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-N-(4-nitrobenzyl)pyroglutamic acid methyl ester | COC([C@H]1N(C(CC1)=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H14N2O5
